US07692016B2
Preparation of 6-Hydroxy-4-Methylquinoline
To a stirred solution of 4-hydroxyaniline (1 g. 9.1 mmol.) in acetic acid (10 ml), activated silferc (1.46 g. ferric chloride 9.1 mmol) was added under nitrogen atmosphere. The reaction mixture was stirred for 5 minutes and methyl vinyl ketone (MVK) (0.70 g, 10.1 mmol) was added slowly over a period of 15 minutes. The reaction mixture was heated to 70° C. and maintained between 70-75° C. for one hour. Anhydrous zinc chloride (1.24 g. 9.1 mmol) was added and the reaction was further refluxed for two hours. The reaction mixture was cooled, filtered, basified with 10% NaOH solution, extracted with ethyl acetate (3×20 ml), dried over Na2SO4 and evaporated to give the product; Yield 65%.

reactant | 4-hydroxyaniline | 9.1 mmol, 1 g | OC1=CC=C(N)C=C1 | C6H7NO
reactant | methyl vinyl ketone | 10.1 mmol, 0.70 g | C(=C)C(=O)C | C4H6O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
catalyst | zinc chloride | 9.1 mmol, 1.24 g | [Cl-].[Zn+2].[Cl-]
product | 6-Hydroxy-4-Methylquinoline | Yield 65% | OC=1C=C2C(=CC=NC2=CC1)C | C10H9NO
